US07951963B2
To water (600 mL) solution of 88.9 g of sodium hydroxide was added 200 g of 4-bromothiophenol and dropwise added water (300 mL) solution of 105 g of chloroacetic acid, which was then stirred at 60 to 70° C. for 1 hour. After cooling the reaction mixture to 40° C., thereto were added 140 mL of hydrochloric acid and 600 mL of toluene, which was then heated to 80° C. The organic layer was separated and slowly cooled to 5° C. After stirring at the same temperature for 1 hour, the crystals precipitate was collected by filtration to provide 243 g of (4-bromophenylthio)acetic acid as white solid form.

reactant | sodium hydroxide | 88.9 g | [OH-].[Na+]
reactant | 4-bromothiophenol | 200 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | chloroacetic acid | 105 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 140 mL | Cl | ClH
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 mL | O | H2O
solvent | water | 600 mL | O | H2O
product | (4-bromophenylthio)acetic acid | 243 g | BrC1=CC=C(C=C1)SCC(=O)O | C8H7BrO2S
